2140-09-26 07:50:00 Physician Resident Progress Note
Chief Complaint: Sepsis, pancreatitis, respiratory failure
   24 Hour Events:
 ARTERIAL LINE - START [**2140-9-26**] 01:44 AM
 INVASIVE VENTILATION - START [**2140-9-26**] 02:57 AM
 MULTI LUMEN - START [**2140-9-26**] 03:36 AM
 MULTI LUMEN - START [**2140-9-26**] 04:17 AM
 MULTI LUMEN - STOP [**2140-9-26**] 04:30 AM
   - Levophed up to 0.3 mcg
   - Unable to place OGT/NGT
   - ABG 7.21/36/84 from 7.18/37/71
   Allergies:
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Ampicillin - [**2140-9-26**] 04:11 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-9-26**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-26**] 07:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 106 (103 - 127) bpm
   BP: 115/70(88) {96/64(5) - 116/74(91)} mmHg
   RR: 20 (12 - 20) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
           Total In:
                                                                  2,014 mL
                                                                    788 mL
   PO:
           TF:
   IVF:
                                                                  2,014 mL
                                                                    248 mL
   Blood products:
   540 mL
   Total out:
                                                                    105 mL
                                                                    750 mL
   Urine:
                                                                    105 mL
                                                                    650 mL
   NG:
   100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,909 mL
                                                                     38 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 24 cmH2O
   Plateau: 19 cmH2O
   SpO2: 94%
   ABG: 7.21/36/84.[**Numeric Identifier 117**]/13/-12
   Ve: 7.2 L/min
   PaO2 / FiO2: 140
   Physical Examination
   General Appearance: Thin, Elderly
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: RLQ,
   LLQ
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   136 K/uL
   9.8 g/dL
   68 mg/dL
   1.2 mg/dL
   13 mEq/L
   3.2 mEq/L
   20 mg/dL
   117 mEq/L
   144 mEq/L
   29.8 %
   33.4 K/uL
        [image002.jpg]
                            [**2140-9-25**]  10:32 PM
                            [**2140-9-26**]  03:50 AM
                            [**2140-9-26**]  05:07 AM
                            [**2140-9-26**]  05:55 AM
   WBC
   32.4
   33.4
   Hct
   29.3
   29.8
   Plt
   146
   136
   Cr
   1.3
   1.2
   TropT
   0.02
   TCO2
   15
   15
   Glucose
   76
   68
   Other labs: PT / PTT / INR:21.8/43.7/2.1, CK / CKMB /
   Troponin-T:131/5/0.02, ALT / AST:91/219, Alk Phos / T Bili:107/1.0,
   Amylase / Lipase:/177, Differential-Neuts:85.0 %, Band:10.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:5051 ng/mL, Fibrinogen:169
   mg/dL, Lactic Acid:2.5 mmol/L, Albumin:2.9 g/dL, LDH:486 IU/L, Ca++:6.1
   mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 1717**] is a [**Age over 90 **] year old female with a PMH significant for afib on
   coumadin with gall stone pancreatitis now hypotensive with probable
   sepsis and coagulopathy.
   .
   # SIRS/Septic Shock: Patient continues to have levophed requirement.
   Leukocytosis increased today to 35 with bandemia on admission.  Likely
   represent biliary sepsis given gall stone pancreatitis.
   - Continue amp/sulbactam, will add genta or ciprofloxacin for added
   coverage if patient decompensates
   - Monitor fever curve and WBC
   - Wean levophed with goal MAP>65
   - f/u blood and urine cultures.
   - ERCP for stone extraction.
   .
   # Respiratory Distress: Patient aspirated in setting of CVL insertion
   after being placed in tren position.  Now with bilateral infiltrates
   and PO2/FiO2 <300.
   - Decrease Tv to [**5-22**] ml/kg
   - Continue amp/sulbactam as above
   - Sputum cx from ETT with gram stain for 3 GNR and GPC in setting of
   post-intubation collection.
   - Follow-up culture data.
   - f/u ABG
   .
   # Pancreatitis: Secondary to obstructing stone.
   - ERCP for stone removal, will follow-up with ERCP team, will need FFP
   prior to procedure.
   - PRN IVFs given probable third spacing as well as sepsis, althouch
   current CVP suggests that patient is not intravascular volume deplete.
   - Keep NPO
   - NGT/OGT placement today. [**Month (only) 8**] need to be IR guided or help from ERCP
   team.
   .
   # Coagulopathy: Patient anticoagulated with coumadin. She has received
   FFP and vitamin K.  She also has a low normal fibrinogen in setting of
   acute illness, suggestive of relative deficiency.  Split products also
   elevated, all of which suggest that patient may be heading towards DIC
   even without low platelets.  Patient also may have a coagulopathy in
   setting of antibiotic use while on coumadin.
   - DIC labs Q6H
   - Cryo if fibrinogen <100
   .
   # Anion Gap acidosis: Likely lactic acidosis with AG of 14 this AM.
   Likely secondary to lactic acidosis.
   - trend lytes
   .
   # Afib: On coumadin as outpatient. INR this AM 2.1.
   - hold anticoagulation for ERCP, will need FFP prior to procedure.
   .
   # CAD:
   - holding ASA and lisinopril
   .
   # Hx of CVA: no residual deficits
   - holding ASA
   .
   # FEN: NPO, replete lytes as necessary, IVFs
   .
   # PPX: SCDs, bowel regimen
   .
   # Access: PIV, a-line, CVL
   .
   # CODE: Full for now per family
   .
   # Contact: [**Name (NI) 310**] [**Name (NI) 1717**], [**Telephone/Fax (1) 1719**]
   .
   # DISPO: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2140-9-25**] 10:29 PM
   Arterial Line - [**2140-9-26**] 01:44 AM
   20 Gauge - [**2140-9-26**] 02:03 AM
   Multi Lumen - [**2140-9-26**] 03:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-09-26 09:02:00 Physician Attending Progress Note
24 Hour Events:
   Admitted overnight as transfer from outside hospital for biliary
   sepsis.  Upon arrival here she was hypotensive, requiring increasing
   dose of vasopressors; and required CVL placement.  Prior to placement
   of IJ, she had emesis and noted aspiration event requiring
   intubation.   She subsequently had placement of her central line
   earlier this morning.
   Allergies:
   Morphine: hallucinations
   Last dose of Antibiotics:
   Unasyn- [**2140-9-26**] 04:11 AM
   Infusions:
   Norepinephrine - 0.15 mcg/Kg/min
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   ICU medications:
   Pantoprazole (Protonix)
   Flowsheet Data as of  [**2140-9-26**] 08:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.1
C (97
   HR: 98 (98 - 127) bpm
   BP: 124/74(93) {94/63(5) - 124/74(93)} mmHg
   RR: 20 (12 - 20) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   CVP: 13 (13 - 15)mmHg
   Total In:
                                                                  2,014 mL
                                                                    933 mL
   PO:
   TF:
   IVF:
                                                                  2,014 mL
                                                                    393 mL
   Blood products:
                                                                    540 mL
   Total out:
                                                                    105 mL
                                                                    795 mL
   Urine:
                                                                    105 mL
                                                                    695 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                  1,909 mL
                                                                    138 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 20
   PEEP: 8 cmH2O
   FiO2: 60%
   PIP: 23 cmH2O
   Plateau: 20 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.21/36/84
   Ve: 8.8 L/min
   PaO2 / FiO2: 140
   Physical Examination
   Gen:  Ill appearing, intubated on vent
   Chest:  clear fields
   CV: Tachy, regular, no audible murmurs
   Abd: non-distended, + BS
   Ext: warm/well-perfused, no edema
   Neuro: sedated, unresponsve
   Labs / Radiology
   9.8 g/dL
   136 K/uL
   68 mg/dL
   1.2 mg/dL
   13 mEq/L
   3.2 mEq/L
   20 mg/dL
   117 mEq/L
   144 mEq/L
   29.8 %
   33.4 K/uL
        [image002.jpg]
                            [**2140-9-25**]  10:32 PM
                            [**2140-9-26**]  03:50 AM
                            [**2140-9-26**]  05:07 AM
                            [**2140-9-26**]  05:55 AM
   WBC
   32.4
   33.4
   Hct
   29.3
   29.8
   Plt
   146
   136
   Cr
   1.3
   1.2
   TropT
   0.02
   TCO2
   15
   15
   Glucose
   76
   68
   Other labs: PT / PTT / INR:21.8/43.7/2.1, CK / CKMB /
   Troponin-T:131/5/0.02, ALT / AST:91/219, Alk Phos / T Bili:107/1.0,
   Amylase / Lipase:/177, Differential-Neuts:85.0 %, Band:10.0 %,
   Lymph:1.0 %, Mono:2.0 %, Eos:0.0 %, D-dimer:5051 ng/mL, Fibrinogen:169
   mg/dL, Lactic Acid:2.5 mmol/L, Albumin:2.9 g/dL, LDH:486 IU/L, Ca++:6.1
   mg/dL, Mg++:2.1 mg/dL, PO4:3.9 mg/dL
   CXR:  bibasilar hazy opacities with effusion and evidence of
   consolidation or atelectasis at the right base
   Assessment and Plan
   [**Age over 90 **]F transferred from OSH with septic shock from biliary source,
   subsequently developed aspiration event requiring intubation; remains
   critically ill with hemodynamic instability; plans to undergo ERCP this
   morning.
   1) Septic Shock:  Currently requiring levophed for hemodynamic support,
   she has metabolic acidosis with lactate of 2.5.  Currently cultures are
   pending; abdominal imaging at OSH with biliary stone.
   - Continue unasyn; will consider addition of quinolone or gentamicin if
   clinical deterioration.
   - Await culture results to tailor antibiotics
   - CVP currently 13, UOP is maintained; less likely she would be fluid
   responsive at this time; will follow clinically today and bolus if drop
   in CVP and evidence that fluid would increase stroke volume.
   - Plan for ERCP today for relief of obstruction
   2) Acute Respiratory Failure:  hypoxemic failure related to aspiration
   event.  PaO2 84 on PEEP 8, FiO2 .60.
   - Will titrate PEEP today to decrease FiO2 following ERCP.
   - Also given aspiration event and sepsis, also P/F < 200, will place on
   low tidal volume ventilation 6-8cc/kg Vt to prevent VILI.
   3) Coagulopathy: related to coumadin, hepatic dysfunction, DIC given
   elevated INR.
   - follow coags, fibrinogen today; no indication for replacement
   currently (fibrinogen 169)
   4) Pancreatitis:  Amylase/Lipase trending down from OSH
   - will monitor fluid balance, recognizing risk of third spacing.
   ICU Care
   Nutrition:  Curently NPO for pancreatitis
   Glycemic Control:  Insulin sliding scale
   Lines:
   22 Gauge - [**2140-9-25**] 10:29 PM
   Arterial Line - [**2140-9-26**] 01:44 AM
   20 Gauge - [**2140-9-26**] 02:03 AM
   Multi Lumen - [**2140-9-26**] 03:36 AM
   Prophylaxis:
   DVT: INR supratherapeutic, boots
   Stress ulcer:  PPI
   VAP:  HOB, mouthcare
   Code status: Full code
   Disposition :  Critically ill, remains in ICU intubated today.
   Time Spent : 60 min

2140-09-27 07:31:00 Physician Resident Progress Note
Chief Complaint: Pancreatitis, sepsis, respiratory failure
   24 Hour Events:
 BLOOD CULTURED - At [**2140-9-26**] 08:11 AM
 BLOOD CULTURED - At [**2140-9-26**] 08:11 AM
 URINE CULTURE - At [**2140-9-26**] 09:18 AM
 ERCP - At [**2140-9-26**] 10:00 AM
   - ERCP - Stone removed, stent placed
   - Decreased Vt, increased PEEP
   - Culture data obtained from OSH revealed GNR which grew E. Coli- pan
   sensitive
   - Antibiotics switched to Unasyn
   - 22:30 - 500 NS bolus for CVP 5-6 and MAP 55-60
   - Pulled back central line
   - Fibrinogen > 300
   Allergies:
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Ampicillin - [**2140-9-26**] 04:11 AM
   Ciprofloxacin - [**2140-9-26**] 01:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2140-9-26**] 06:03 PM
   Ampicillin/Sulbactam (Unasyn) - [**2140-9-26**] 08:20 PM
   Infusions:
   Fentanyl - 50 mcg/hour
   Midazolam (Versed) - 3 mg/hour
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2140-9-27**] 12:03 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-27**] 07:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.4
C (97.6
   HR: 88 (84 - 102) bpm
   BP: 96/57(73) {64/46(54) - 124/74(93)} mmHg
   RR: 24 (18 - 24) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Height: 58 Inch
    CVP: 8 (6 - 15)mmHg
   Total In:
                                                                  3,022 mL
                                                                    240 mL
   PO:
   TF:
   IVF:
                                                                  1,891 mL
                                                                    240 mL
   Blood products:
                                                                  1,091 mL
   Total out:
                                                                  1,735 mL
                                                                    570 mL
   Urine:
                                                                  1,335 mL
                                                                    370 mL
   NG:
                                                                    400 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,287 mL
                                                                   -330 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 450) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 60%
   RSBI Deferred: No Spon Resp
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   Compliance: 35 cmH2O/mL
   SpO2: 100%
   ABG: 7.34/38/151/17/-4
   Ve: 9.1 L/min
   PaO2 / FiO2: 252
   Physical Examination
   General Appearance: Thin, Elderly
   Eyes / Conjunctiva: PERRL but constricted
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : ) CTAB
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: S/ND
   +bs
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to stimulus, able to move extremities.
   Labs / Radiology
   84 K/uL
   8.3 g/dL
   47 mg/dL
   1.2 mg/dL
   17 mEq/L
   4.2 mEq/L
   20 mg/dL
   113 mEq/L
   140 mEq/L
   25.6 %
   24.8 K/uL
        [image002.jpg]
                            [**2140-9-25**]  10:32 PM
                            [**2140-9-26**]  03:50 AM
                            [**2140-9-26**]  05:07 AM
                            [**2140-9-26**]  05:55 AM
                            [**2140-9-26**]  11:43 AM
                            [**2140-9-26**]  11:56 AM
                            [**2140-9-26**]  06:02 PM
                            [**2140-9-26**]  08:15 PM
                            [**2140-9-27**]  04:59 AM
                            [**2140-9-27**]  05:29 AM
   WBC
   32.4
   33.4
   30.1
   28.6
   24.8
   Hct
   29.3
   29.8
   26.3
   26.0
   25.6
   Plt
   146
   136
   103
   100
   84
   Cr
   1.3
   1.2
   1.2
   1.2
   TropT
   0.02
   TCO2
   15
   15
   17
   18
   21
   Glucose
   76
   68
   82
   47
   Other labs: PT / PTT / INR:16.1/40.4/1.4, CK / CKMB /
   Troponin-T:131/5/0.02, ALT / AST:107/159, Alk Phos / T Bili:106/0.6,
   Amylase / Lipase:145/26, Differential-Neuts:86.0 %, Band:11.0 %,
   Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:6396 ng/mL, Fibrinogen:387
   mg/dL, Lactic Acid:2.1 mmol/L, Albumin:2.6 g/dL, LDH:243 IU/L, Ca++:7.3
   mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dLUrine,
   Microbiology: Urine, blood - NGTD
   Sputum - gram stain
     GRAM STAIN (Final [**2140-9-26**]):
         >25 PMNs and <10 epithelial cells/100X field.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       SINGLY AND IN PAIRS.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE ROD(S).
         1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   Assessment and Plan
   Mrs. [**Known lastname 1717**] is a [**Age over 90 **] year old female with a PMH significant for afib on
   coumadin with gall stone pancreatitis now hypotensive with probable
   sepsis and coagulopathy.
   .
   # Sepsis: Patient continues to have levophed requirement.  Leukocytosis
   trending down today to 24.8. Likely biliary sepsis given gall stone
   pancreatitis with successful ERCP yesterday.  Blood cultures from OSH
   speciated as pan-sensitive E.coli.
   - Continue amp/sulbactam
   - Monitor fever curve and WBC
   - Wean levophed with goal MAP>65
   - f/u blood and urine cultures.
   - Monitor UOP, MAP, CVP and bolus as necessary.
   .
   # Respiratory failure: Patient aspirated in setting of CVL insertion
   after being placed in tren position.  Now with bilateral infiltrates
   and PO2/FiO2 <300.  Tv decreased yesterday to 350 and PEEP increased to
   8.  Sputum cx from ETT with gram stain for 3 GNR and GPC in setting of
   post-intubation collection.
   - Lighten sedation and assess neuro status.
   - Continue amp/sulbactam as above
   - Follow-up culture data.
   - f/u ABG
   - Decrease FiO2 as PaO2 was 151
   .
   # Pancreatitis: Patient with gallstone pancreatitis s/p successfuly
   ERCP yesterday.  NGT placed yesterday.  Transaminases continue to trend
   up, lipase today 26.
   - Trend lipase, LFTs
   - PRN IVFs given probable third spacing as well as sepsis, althouch
   current CVP suggests that patient is not intravascular volume deplete.
   - Keep NPO
   .
   # Coagulopathy: Patient anticoagulated with coumadin. She has received
   FFP and vitamin K. Platelets continue trend down, this morning at 84.
   Fibrinogen has been in the 300s.  D-dimer continues to be elevated.
   - Trend coags
   - Cryo if fibrinogen <100.
   .
   # Acidosis: Patient previously with metabolic acidosis due to elevated
   lactate in setting of sepsis.  Last ABG 7.34/38/151. AML with anion gap
   of 10, although this likely represents a true anion gap in setting of
   hypoalbuminemia.  There may also be a combination of gap and non-gap
   acidosis secondary to IVF
   - ABG with lactate later today.
   .
   # Anemia: Hct this AM 25.6 from 29.3 on admission.  There may be
   dilutional component, although LDH is WNL this morning.
   - Check haptoglobin.
   - Hct check [**Hospital1 **], transfuse for hct<25.
   .
   # Afib: On coumadin as outpatient.
   - hold anticoagulation.
   .
   # CAD:
   - holding ASA and lisinopril
   .
   # Hx of CVA: no residual deficits
   - holding ASA
   .
   # FEN: NPO, replete lytes as necessary, IVFs
   .
   # PPX: SCDs, bowel regimen
   .
   # Access: PIV, a-line, CVL
   .
   # CODE: Full for now per family
   .
   # Contact: [**Name (NI) 310**] [**Name (NI) 1717**], [**Telephone/Fax (1) 1719**]
   .
   # DISPO: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-9-26**] 01:44 AM
   20 Gauge - [**2140-9-26**] 02:03 AM
   Multi Lumen - [**2140-9-26**] 03:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-09-27 12:10:00 Physician Attending Progress Note
Chief Complaint: Biliary Sepsis
   HPI:
   [**Age over 90 **]F admitted with biliary obstruction and cholangitis.
   24 Hour Events:
   She underwent ERCP yesterday with stent placement for an obstructing
   stone.  OSH cultures returned pansensitive ecoli and her antibiotics
   were tailored to unasyn only.  She has continued hemodynamic
   instability with stable pressor requirement (levophed
   0.16mcg/kg/min).   However, she has evidence of adequate perfusion with
   maintained urine output and improvement of lactic acidosis.  No
   significant clinical change in her status over the last 24hours.
   Allergies:
   Morphine: hallucinations
   Last dose of Antibiotics:
   Ampicillin - [**2140-9-26**] 04:11 AM
   Ciprofloxacin - [**2140-9-26**] 01:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2140-9-26**] 06:03 PM
   Ampicillin/Sulbactam (Unasyn) - [**2140-9-27**] 07:30 AM
   Infusions:
   Norepinephrine - 0.16 mcg/Kg/min
   Fentanyl
 on hold this morning
   Versed
 on hold this morning
   ICU medications:
   Pantoprazole (Protonix)
   Peridex
   ASA 81mg
   Senna
   Colace
   Changes to medical and family history: NONE
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-27**] 12:05 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.2
C (97.1
   HR: 92 (84 - 102) bpm
   BP: 83/54(67) {54/40(50) - 124/67(88)} mmHg
   RR: 24 (19 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
   CVP: 10 (6 - 14)mmHg
   Total In:
                                                                  3,022 mL
                                                                    598 mL
   PO:
   TF:
   IVF:
                                                                  1,891 mL
                                                                    598 mL
   Blood products:
                                                                  1,091 mL
   Total out:
                                                                  1,735 mL
                                                                    800 mL
   Urine:
                                                                  1,335 mL
                                                                    600 mL
   NG:
                                                                    400 mL
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                  1,287 mL
                                                                   -202 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 400) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 21 cmH2O
   Plateau: 20 cmH2O
   Compliance: 29.2 cmH2O/mL
   SpO2: 95%
   ABG: 7.31/35/90
   Ve: 9.4 L/min
   PaO2 / FiO2: 225
   Physical Examination
   Gen:  patient intubated on ventilator, critically ill
   Chest:  Clear anterior lung fields
   CV:  Regular, tachycardic
   Abd:  soft/non-distended
   Ext: no edema, warm/well perfused
   Labs / Radiology
   8.3 g/dL
   84 K/uL
   47 mg/dL
   1.2 mg/dL
   17 mEq/L
   4.2 mEq/L
   20 mg/dL
   113 mEq/L
   140 mEq/L
   25.6 %
   24.8 K/uL
        [image002.jpg]
                            [**2140-9-26**]  03:50 AM
                            [**2140-9-26**]  05:07 AM
                            [**2140-9-26**]  05:55 AM
                            [**2140-9-26**]  11:43 AM
                            [**2140-9-26**]  11:56 AM
                            [**2140-9-26**]  06:02 PM
                            [**2140-9-26**]  08:15 PM
                            [**2140-9-27**]  04:59 AM
                            [**2140-9-27**]  05:29 AM
                            [**2140-9-27**]  09:53 AM
   WBC
   33.4
   30.1
   28.6
   24.8
   Hct
   29.8
   26.3
   26.0
   25.6
   Plt
   136
   103
   100
   84
   Cr
   1.2
   1.2
   1.2
   TCO2
   15
   15
   17
   18
   21
   18
   Glucose
   68
   82
   47
   Other labs: PT / PTT / INR:16.1/40.4/1.4, CK / CKMB /
   Troponin-T:131/5/0.02, ALT / AST:107/159, Alk Phos / T Bili:106/0.6,
   Amylase / Lipase:145/26, Differential-Neuts:86.0 %, Band:11.0 %,
   Lymph:3.0 %, Mono:0.0 %, Eos:0.0 %, D-dimer:5862 ng/mL, Fibrinogen:387
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:243 IU/L, Ca++:7.3
   mg/dL, Mg++:1.7 mg/dL, PO4:2.9 mg/dL
   Assessment and Plan
   [**Age over 90 **]yoF here with biliary sepsis, subsequent ecoli bacteremia; now s/p
   ERCP with relief of obstruction. Continues with ventilatory support for
   hypoxemic respiratory failure in setting of aspiration and vasopressor
   support for sepsis.
   1.       ID/Sepsis:  Cholangitis from biliary obstruction, resolving.
   OSH microbiology data revealed ecoli bacteremia (pansensitive).
   Hemodynamically she remains in vasodilatory septic shock requiring
   stable levophed support over last 24hours.  Her CVP is > 8, has
   maintained 40-60cc UOP and her anion gap lactic acidosis is resolving.
   Leukocytosis also improving steadily.
   - Continue unasyn;
   - CVP currently 10, UOP is maintained; less likely she would be fluid
   responsive at this time; will follow clinically today and bolus if drop
   in CVP and evidence that fluid would increase stroke volume.
   2.       Respiratory Failure/Aspiration event:  hypoxemic respiratory
   failure.  Improved PaO2 on increased PEEP. P/F ratio 225.  Tolerating
   ventilatory on ARDSnet low tidal volumes.  Secretions minimal.
   -          Wean FiO2/PEEP today as her oxygenation will tolerate
   -          ARDSnet with Vt 350
   -          Hold sedation today for daily awakening, possible SBT if she
   wakes up, though limited by hemodynamic instability for extubation
   currently.
   3.       GI: biliary obstruction from stone
 s/p ERCP with stent.
   Resolving.
   -          Follow LFTs/bilirubin
   4.       Heme: coagulapathy related to coumadin and possible early
   DIC.  INR was reversed upon admission.
   - follow coags daily, no role for transfusion of cryo given normal
   fibrinogen
   ICU Care
   Nutrition: Holding enteral feeds given biliary obstruction, will
   discuss with GI.
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-9-26**] 01:44 AM
   20 Gauge - [**2140-9-26**] 02:03 AM
   Multi Lumen - [**2140-9-26**] 03:36 AM
   Prophylaxis:
   DVT:   s/p INR reversal
 start heparin SQ today for prophylaxis
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Need for restraints reviewed
   Communication: ICU consent signed
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2140-09-28 07:05:00 Physician Resident Progress Note
Chief Complaint: Pancreatitis, sepsis, respiratory failure
   24 Hour Events:
   - Hct 26.7, Haptoglobin: 156
   - Pt was weaned to 0.1 Levophed and MAPS 65-70 and SBP in the 80's.
   Went back up on the Levophed to 0.125 and pressures stable.
   - Pt weaned down to 0.03 overnight and tolerating.
   Allergies:
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2140-9-26**] 01:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2140-9-26**] 06:03 PM
   Ampicillin/Sulbactam (Unasyn) - [**2140-9-27**] 07:30 AM
   Ampicillin - [**2140-9-27**] 08:10 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-9-28**] 06:07 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-28**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 37
C (98.6
   HR: 90 (86 - 103) bpm
   BP: 144/80(108) {54/40(50) - 144/80(108)} mmHg
   RR: 22 (15 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
    CVP: 10 (5 - 10)mmHg
   Total In:
                                                                    913 mL
                                                                     86 mL
   PO:
   TF:
   IVF:
                                                                    913 mL
                                                                     86 mL
   Blood products:
   Total out:
                                                                  1,370 mL
                                                                    215 mL
   Urine:
                                                                  1,170 mL
                                                                    215 mL
   NG:
                                                                    200 mL
   Stool:
   Drains:
   Balance:
                                                                   -457 mL
                                                                   -129 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 350 (350 - 350) mL
   RR (Set): 24
   RR (Spontaneous): 0
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 79
   RSBI Deferred: No Spon Resp
   PIP: 19 cmH2O
   Plateau: 17 cmH2O
   Compliance: 38.9 cmH2O/mL
   SpO2: 97%
   ABG: 7.37/32/138/17/-5
   Ve: 8.3 L/min
   PaO2 / FiO2: 345
   Physical Examination
   General Appearance: Thin, Elderly
   Eyes / Conjunctiva: PERRL but constricted
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : ) CTAB
   Abdominal: Soft, Bowel sounds present, No(t) Distended, Tender: S/ND
   +bs
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to stimulus, able to move extremities.
   Labs / Radiology
   80 K/uL
   8.1 g/dL
   71 mg/dL
   1.3 mg/dL
   17 mEq/L
   4.3 mEq/L
   19 mg/dL
   116 mEq/L
   143 mEq/L
   24.2 %
   23.1 K/uL
        [image002.jpg]
                            [**2140-9-26**]  11:43 AM
                            [**2140-9-26**]  11:56 AM
                            [**2140-9-26**]  06:02 PM
                            [**2140-9-26**]  08:15 PM
                            [**2140-9-27**]  04:59 AM
                            [**2140-9-27**]  05:29 AM
                            [**2140-9-27**]  09:53 AM
                            [**2140-9-27**]  02:17 PM
                            [**2140-9-28**]  04:12 AM
                            [**2140-9-28**]  05:19 AM
   WBC
   30.1
   28.6
   24.8
   28.3
   23.1
   Hct
   26.3
   26.0
   25.6
   26.7
   24.2
   Plt
   103
   100
   84
   96
   80
   Cr
   1.2
   1.2
   1.3
   TCO2
   17
   18
   21
   18
   19
   Glucose
   82
   47
   71
   Other labs: PT / PTT / INR:13.2/33.6/1.1, CK / CKMB /
   Troponin-T:131/5/0.02, ALT / AST:81/96, Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:80/16, Differential-Neuts:95.5 %, Band:0.0 %,
   Lymph:2.4 %, Mono:1.8 %, Eos:0.2 %, D-dimer:5367 ng/mL, Fibrinogen:339
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:194 IU/L, Ca++:8.0
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Microbiology: Blood- NGTD (10/13,15)
   Urine- No growth (final)
   Assessment and Plan
   Mrs. [**Known lastname 1717**] is a [**Age over 90 **] year old female with a PMH significant for afib on
   coumadin with gall stone pancreatitis complicated by sepsis.
   .
   # Sepsis: Able to wean levophed requirement to 0.03.  Leukocytosis
   trending down today to 23.1. Likely biliary sepsis given gall stone
   pancreatitis s/p ERCP with blood cultures at OSH speciated as
   pan-sensitive E. coli.  Lactate 1.7.
   - Continue amp/sulbactam
   - Monitor fever curve and WBC
   - Wean levophed with goal MAP>65
   - f/u blood and urine cultures.
   - Monitor UOP, MAP, CVP and bolus as necessary.  Delta down yesterday
   [**2-16**], so patient may not be fluid responsive.
   - When patient is off levophed, will set goal balance at -1000cc and
   diurese as necessary.
   .
   # Respiratory failure: Patient aspirated in setting of CVL insertion
   after being placed in tren position.  Now with bilateral infiltrates
   and PO2/FiO2 <300 afterward aspiration event.  Sputum culture with OP
   flora.  RSBI this AM 79.   Sedation turned off yesterday and patient
   continues to be minimally responsive.
   - Continue prn sedation and assess for responsiveness.
   - SBT/PS trial today
   - Decrease FiO2 as last PaO2 elevated.
   .
   # Pancreatitis: Patient with gallstone pancreatitis s/p ERCP.
   Transaminases trending down and lipase WNL.
   - PRN IVFs given probable third spacing as well as sepsis, althouch
   current CVP and delta down suggests that patient is not intravascular
   volume deplete.
   - Keep NPO
   .
   # Coagulopathy: Patient anticoagulated with coumadin on admission. She
   has received FFP and vitamin K on initial admission for INR >5.
   Platelets stable this AM at 80.  Fibrinogen has been in the 339.
   D-dimer continues to be elevated in 5000s.  Smear this AM with
   occasional schistocytes. Unlikely to be DIC given course, coagulopathy
   likely secondary to antibiotic administration.  Patinet restarted on
   heparin here and may have received heparin products as OSH.
   - Check heparin PF4 antibodies.
   - Trend coags
   - Cryo if fibrinogen <100.
   .
   # Acidosis: Most recent pH 7.37 with resolved acidosis.  Last ABG
   7.34/32/138.
   - Recheck ABG later today if vent settings change.
   .
   # Anemia: Hct this AM 24.2 from 29.3 on admission.  Have been between
   24-26 for the past 24 hours. There may be dilutional component, and
   hemolysis labs negative
   - Transfuse 1u PRBC, recheck post-transfusion hct
   - Check haptoglobin.
   - Hct check [**Hospital1 **], transfuse for hct<25.
   .
   # Afib: On coumadin as outpatient.
   - hold anticoagulation.
   .
   # CAD:
   - holding ASA and lisinopril
   .
   # Hx of CVA: no residual deficits
   - holding ASA
   .
   # FEN: NPO, replete lytes as necessary, IVFs
   .
   # PPX: SCDs, bowel regimen
   .
   # Access: PIV, a-line, CVL
   .
   # CODE: Full for now per family
   .
   # Contact: [**Name (NI) 310**] [**Name (NI) 1717**], [**Telephone/Fax (1) 1719**]
   .
   # DISPO: ICU care for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-9-26**] 01:44 AM
   20 Gauge - [**2140-9-26**] 02:03 AM
   Multi Lumen - [**2140-9-26**] 03:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-09-29 06:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Oropharynx blood minimal this afternoon.
   - Minimizing sedation bolus.
   - Medical team talked with son, [**Name (NI) 310**]
   - [**Name (NI) **] ~30cc/hour, delta down ~3. 250cc bolus given with minimal
   improvement.
   - Given 1 unit pRBCs
   - Tubefeeds started
   - Nurses noted frothy sputum, desaturation to 92% after receiving 250cc
   bolus as above.
   Allergies:
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2140-9-26**] 01:30 PM
   Piperacillin/Tazobactam (Zosyn) - [**2140-9-26**] 06:03 PM
   Ampicillin - [**2140-9-27**] 08:10 PM
   Ampicillin/Sulbactam (Unasyn) - [**2140-9-28**] 08:39 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2140-9-28**] 03:19 PM
   Heparin Sodium - [**2140-9-28**] 09:53 PM
   Fentanyl - [**2140-9-29**] 04:32 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Denies pain, discomfort, or abdominal pain.
   Flowsheet Data as of  [**2140-9-29**] 06:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 98 (83 - 98) bpm
   BP: 134/83(105) {119/68(92) - 149/86(113)} mmHg
   RR: 19 (9 - 24) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 58 Inch
    CVP: 8 (5 - 14)mmHg
   Total In:
                                                                  1,064 mL
                                                                     61 mL
   PO:
   TF:
                                                                     90 mL
   IVF:
                                                                    606 mL
                                                                     61 mL
   Blood products:
                                                                    278 mL
   Total out:
                                                                  1,030 mL
                                                                    205 mL
   Urine:
                                                                    930 mL
                                                                    205 mL
   NG:
                                                                    100 mL
   Stool:
   Drains:
   Balance:
                                                                     34 mL
                                                                   -144 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 400 (350 - 400) mL
   Vt (Spontaneous): 400 (400 - 520) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 12 cmH2O
   Plateau: 14 cmH2O
   SpO2: 94%
   ABG: 7.38/29/108/17/-6
   Ve: 8 L/min
   PaO2 / FiO2: 270
   Physical Examination
   General: Responsive, follows commands (squeezes hand)
   CV: RRR, normal S1/S2, no murmurs appreciated
   Pulm: Coarse/rhoncherous breath sounds diffusely
   Abd: Normoactive bowel sounds; soft, nontender, not distended
   Ext: Warm, radial and DP pulses 2+, no lower extremity edema
   Labs / Radiology
   63 K/uL
   9.5 g/dL
   76 mg/dL
   1.0 mg/dL
   17 mEq/L
   4.0 mEq/L
   18 mg/dL
   113 mEq/L
   142 mEq/L
   27.5 %
   18.2 K/uL
        [image002.jpg]
   Ca 8.1; Mg 1.6; Phos 2.6
   Blood culture ([**9-26**], [**9-28**])
 No growth to date
   Urine culture ([**9-26**])
 No growth to date
   Sputum culture ([**9-28**])
 Sparse oropharyngeal flora + gram (-) rods
                            [**2140-9-27**]  05:29 AM
                            [**2140-9-27**]  09:53 AM
                            [**2140-9-27**]  02:17 PM
                            [**2140-9-28**]  04:12 AM
                            [**2140-9-28**]  05:19 AM
                            [**2140-9-28**]  10:11 AM
                            [**2140-9-28**]  03:46 PM
                            [**2140-9-28**]  04:01 PM
                            [**2140-9-29**]  03:27 AM
                            [**2140-9-29**]  03:40 AM
   WBC
   28.3
   23.1
   21.5
   18.2
   Hct
   26.7
   24.2
   28.5
   27.5
   Plt
   96
   80
   76
   63
   Cr
   1.3
   1.0
   TCO2
   21
   18
   19
   20
   20
   18
   Glucose
   71
   76
   Other labs: PT / PTT / INR:13.2/33.6/1.1, CK / CKMB /
   Troponin-T:131/5/0.02, ALT / AST:81/96, Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:80/16, Differential-Neuts:95.5 %, Band:0.0 %,
   Lymph:2.4 %, Mono:1.8 %, Eos:0.2 %, D-dimer:5367 ng/mL, Fibrinogen:339
   mg/dL, Lactic Acid:1.7 mmol/L, Albumin:2.6 g/dL, LDH:194 IU/L, Ca++:8.1
   mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old female with a PMH significant for afib on coumadin with
   gall stone pancreatitis complicated by sepsis, coagulopathy, and
   anemia.
   # Respiratory failure: Patient aspirated in setting of CVL insertion
   after being placed in tren position.  Sedation reduced over past [**12-16**]
   days with improvement in mental status.  Currently on prn sedation.
   Concern for flash pulmonary edema overnight after 250ml bolus given
   possible given that patient has been hypertensive (increased afterload)
   and chest radiograph consistent with fluid overload. Given 1 dose of
   furosemide 10mg IV x1 with good diuresis. Patient with blood in
   oropharynx today, likely secondary to traumatic NGT placement. Will
   observe today and consult ENT as necessary if intervention warranted.
   - Gently diurese for net negative goal of -500cc. Consider additional 1
   dose of furosemide today.
   - If unable to wean off of ventilator today, consider increasing
   sedation to increase comfort
 hypertensive and tachycardic overnight
   likely secondary to discomfort on ventilator.
   - Assess mental status
   - Consult ENT if blood in orophayrnx persists.
   # Sepsis: Levophed weaned and discontinued.  Leukocytosis trending down
   today to 18.2. Likely biliary sepsis given gallstone pancreatitis s/p
   ERCP with blood cultures at OSH speciated as pan-sensitive E. coli.
   Lactate 1.7.
   - Continue Augmentin for total of 14 days
 antibiotic start date [**9-26**]
   - Monitor fever curve and WBC
   - f/u blood and urine cultures.
   - Monitor [**Month/Year (2) **], MAP, CVP and bolus as necessary.
   # Anemia: Hct stable around 27.
   - Continue to monitor.
   # Pancreatitis: Patient with gallstone pancreatitis s/p ERCP.
   Transaminases trending down and lipase WNL.
   - Start TF today.
   # Coagulopathy: Patient anticoagulated with coumadin on admission. She
   has received FFP and vitamin K on initial admission for INR >5.
   Platelets slowly falling. Previous fibrinogen 339, D-dimer in 5000s,
   and recent smear with occasional schistocytes. Unlikely to be DIC given
   course, coagulopathy likely secondary to antibiotic administration and
   acute stress. Coags currently within normal range.
   # Acidosis: Resolved.  Last ABG 7.34/32/138.
   # Afib: On coumadin as outpatient.
   - Hold anticoagulation
   - Cont ASA
   # CAD:
   - holding lisinopril
   - Cont ASA
   # Hx of CVA: no residual deficits
   - Cont ASA
   # FEN: TF held this morning, replete lytes as necessary
   # PPX: heparin SQ, PPI
   # Access: Arterial line, RIJ
   # CODE: Full
   # Contact: [**Name (NI) 310**] [**Name (NI) 1717**], [**Telephone/Fax (1) 1719**]
   # DISPO: ICU care for now
   ICU Care (as above)
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-9-26**] 01:44 AM
   Multi Lumen - [**2140-9-26**] 03:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-09-30 07:20:00 Physician Resident Progress Note
Chief Complaint: Gallstone Pancreatitis
   24 Hour Events:
   - After diuresis with furosemide 10mg IV x2, went into afib -> given
   diltiazem 10mg IV x1 -> pressures dropped -> given 250 cc bolus ->
   given beta-blocker for rate control -> converted to NSR
   - At midnight, -1.9L per day
   - Guiac negative
   - Decision to restart anticoagulation deferred to patient and PCP
   [**Name Initial (PRE) **] [**Name9 (PRE) 1851**] restarted
   - Increased frequency of fentanyl boluses
   - Pt on [**9-18**] this AM
 EKG - At [**2140-9-29**] 12:53 PM
   Allergies:
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Ampicillin - [**2140-9-27**] 08:10 PM
   Ampicillin/Sulbactam (Unasyn) - [**2140-9-28**] 08:39 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-9-29**] 12:07 PM
   Diltiazem - [**2140-9-29**] 01:04 PM
   Fentanyl - [**2140-9-29**] 10:59 PM
   Heparin Sodium (Prophylaxis) - [**2140-9-30**] 06:08 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations
   Respiratory: No(t) Dyspnea
   Gastrointestinal: No(t) Abdominal pain
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2140-9-30**] 07:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.8
C (98.3
   HR: 86 (78 - 129) bpm
   BP: 131/75(99) {108/68(96) - 152/88(115)} mmHg
   RR: 16 (13 - 25) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 51 kg
   Height: 58 Inch
    CVP: 12 (7 - 18)mmHg
   Total In:
                                                                    960 mL
                                                                    158 mL
   PO:
   TF:
                                                                     68 mL
   IVF:
                                                                    590 mL
                                                                     70 mL
   Blood products:
   Total out:
                                                                  2,865 mL
                                                                    177 mL
   Urine:
                                                                  2,865 mL
                                                                    177 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,905 mL
                                                                    -19 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (0 - 400) mL
   Vt (Spontaneous): 418 (418 - 418) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 15 cmH2O
   SpO2: 97%
   ABG: 7.37/30/145/17/-6
   Ve: 11 L/min
   PaO2 / FiO2: 363
   Physical Examination
   General Appearance: No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   vent sounds transmitted)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   65 K/uL
   9.6 g/dL
   103 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.5 mEq/L
   18 mg/dL
   110 mEq/L
   142 mEq/L
   28.8 %
   14.2 K/uL
        [image002.jpg]
                            [**2140-9-28**]  05:19 AM
                            [**2140-9-28**]  10:11 AM
                            [**2140-9-28**]  03:46 PM
                            [**2140-9-28**]  04:01 PM
                            [**2140-9-29**]  03:27 AM
                            [**2140-9-29**]  03:40 AM
                            [**2140-9-29**]  11:40 AM
                            [**2140-9-29**]  07:21 PM
                            [**2140-9-30**]  03:54 AM
                            [**2140-9-30**]  04:04 AM
   WBC
   21.5
   18.2
   14.2
   Hct
   28.5
   27.5
   28.8
   Plt
   76
   63
   65
   Cr
   1.0
   1.0
   0.9
   TCO2
   19
   20
   20
   18
   16
   18
   Glucose
   76
   82
   103
   Other labs: PT / PTT / INR:13.2/33.6/1.1, CK / CKMB /
   Troponin-T:131/5/0.02, ALT / AST:81/96, Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:84/44, Differential-Neuts:95.5 %, Band:0.0 %,
   Lymph:2.4 %, Mono:1.8 %, Eos:0.2 %, D-dimer:5367 ng/mL, Fibrinogen:339
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:194 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   [**Age over 90 **] year old female with a PMH significant for afib on coumadin with
   gall stone pancreatitis complicated by sepsis, coagulopathy, and
   anemia.
   .
   # Respiratory failure: Patient aspirated in setting of CVL insertion
   after being placed in tren position.  Pt has been off sedation with
   fentanyl bolus with improvement of mental status.  Currently on prn
   sedation. Pt was diuresed and negative 1.9L yesterday.  Pt did have
   a-fib w/ RVR yesterday after aggressive diuresis.  No new blood in
   oropharynx.
   - will attempt to extubate this AM
   - cont gently diurese for net negative goal of -500cc.
   - Assess mental status, improving
   .
   # Sepsis: Off pressors, Levophed weaned and discontinued.  Afebrile.
   Leukocytosis trending down today to 14.2. Likely biliary sepsis given
   gallstone pancreatitis s/p ERCP with blood cultures at OSH speciated as
   pan-sensitive E. coli.  Pt sputum grew rare GNR.
   - Continue Augmentin for total of 14 days
 antibiotic start date [**9-26**]
   - Monitor fever curve and WBC
   - f/u blood and urine cultures.
   - Monitor UOP, MAP, CVP and bolus as necessary.
   .
   #A-fib: Pt with a-fib w/ RVR yesterday after aggressive diuresis.  Pt
   given diltiazem and 250cc and pressures dropped, was on levophed for
   several minutes and pt reverted back to sinus.  Started on low dose
   metoprolol 12.5 [**Hospital1 **].  Will hold on restarting anti-coagulation and
   discuss with patient and PCP.  [**Name10 (NameIs) **] at high risk given co-morbities, but
   patient high risk for fall given age and mental status.
   - cont metoprolol 12.5 [**Hospital1 **]
   - hold anticoagulation, pt on ASA
   - consider amio if pt has a-fib w/ RVR and pressures cont to be low.
   .
   # Anemia: Hct stable around 28.8.
   - Continue to monitor.
    .
   # Pancreatitis: Patient with gallstone pancreatitis s/p ERCP.
   Transaminases trending down and lipase WNL.
   - Started TF yesterday.
   - can restart diet if extubated, given pt is able to swollow
   .
   # Coagulopathy: Patient anticoagulated with coumadin on admission. She
   has received FFP and vitamin K on initial admission for INR >5.
   Platelets slowly falling. Previous fibrinogen 339, D-dimer in 5000s,
   and recent smear with occasional schistocytes. Unlikely to be DIC given
   course, coagulopathy likely secondary to antibiotic administration and
   acute stress. Coags currently within normal range.
    .
   # CAD:
   - holding lisinopril
   - Cont ASA
   .
   # Hx of CVA: no residual deficits
   - Cont ASA
   .
   # FEN: TF, replete lytes as necessary
   - if extubated need to assess aspiration risk
   .
   # PPX: heparin SQ, PPI
    .
   # Access: Arterial line, RIJ
   .
   # CODE: Full
   .
   # Contact: [**Name (NI) 310**] [**Name (NI) 1717**], [**Telephone/Fax (1) 1719**]
   .
   # DISPO: ICU care for now
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2140-9-30**] 12:15 AM 10 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-9-26**] 01:44 AM
   Multi Lumen - [**2140-9-26**] 03:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-09-30 12:03:00 Physician Attending Progress Note
Chief Complaint: Hypotension/urosepsis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   [**Age over 90 **]F with urosepsis s/p aspiration event following admission.
   24 Hour Events:
   Afib RVR yesterday, with transient HoTN from diltiazem.  Required brief
   levophed, but now improved and in NSR.  Otherwise, she was stable and
   diuresed well.
   Allergies:
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Ampicillin - [**2140-9-27**] 08:10 PM
   Ampicillin/Sulbactam (Unasyn) - [**2140-9-28**] 08:39 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-9-29**] 12:07 PM
   Diltiazem - [**2140-9-29**] 01:04 PM
   Heparin Sodium (Prophylaxis) - [**2140-9-30**] 06:08 AM
   Fentanyl - [**2140-9-30**] 10:14 AM
   Other medications:
   Senna
   Colace
   PPI
   ASA 81mg daily
   Peridex
   Amoxicillin 500mg [**Hospital1 **]
   Lopressor 12.5mg [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-9-30**] 11:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 36.1
C (97
   HR: 83 (78 - 129) bpm
   BP: 151/85(112) {108/68(96) - 152/88(115)} mmHg
   RR: 15 (14 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 51 kg
   Height: 58 Inch
   CVP: 8 (7 - 18)mmHg
   Total In:
                                                                    960 mL
                                                                    345 mL
   PO:
   TF:
                                                                    116 mL
   IVF:
                                                                    590 mL
                                                                    119 mL
   Blood products:
   Total out:
                                                                  2,865 mL
                                                                    284 mL
   Urine:
                                                                  2,865 mL
                                                                    284 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,905 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 418 (418 - 418) mL
   PS : 10 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 55
   PIP: 0 cmH2O
   SpO2: 98%
   ABG: 7.35/32/67
   Ve: 7.1 L/min
   PaO2 / FiO2: 168
   Physical Examination
   General Appearance: Thin
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: crackles
   posterior fields : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Follows simple commands, Responds to: Verbal stimuli,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   9.6 g/dL
   65 K/uL
   103 mg/dL
   0.9 mg/dL
   17 mEq/L
   4.5 mEq/L
   18 mg/dL
   110 mEq/L
   142 mEq/L
   28.8 %
   14.2 K/uL
        [image002.jpg]
                            [**2140-9-28**]  10:11 AM
                            [**2140-9-28**]  03:46 PM
                            [**2140-9-28**]  04:01 PM
                            [**2140-9-29**]  03:27 AM
                            [**2140-9-29**]  03:40 AM
                            [**2140-9-29**]  11:40 AM
                            [**2140-9-29**]  07:21 PM
                            [**2140-9-30**]  03:54 AM
                            [**2140-9-30**]  04:04 AM
                            [**2140-9-30**]  09:06 AM
   WBC
   21.5
   18.2
   14.2
   Hct
   28.5
   27.5
   28.8
   Plt
   76
   63
   65
   Cr
   1.0
   1.0
   0.9
   TCO2
   20
   20
   18
   16
   18
   18
   Glucose
   76
   82
   103
   Other labs: PT / PTT / INR:13.2/33.6/1.1, CK / CKMB /
   Troponin-T:131/5/0.02, ALT / AST:81/96, Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:84/44, Differential-Neuts:95.5 %, Band:0.0 %,
   Lymph:2.4 %, Mono:1.8 %, Eos:0.2 %, D-dimer:5367 ng/mL, Fibrinogen:339
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:194 IU/L, Ca++:8.3
   mg/dL, Mg++:1.8 mg/dL, PO4:3.1 mg/dL
   Assessment and Plan
   93F admitted with biliary sepsis and subsequently developed aspiration
   event requiring intubation.
   1.       Respiratory Failure:  Yesterday failed SBT in setting of
   pulmonary edema; now diuresed; but still with hypoxemia.  Also concern
   for secretions; though her mental status is improved and she is
   following commands.
   -          SBT today with zero PEEP
   -          Continue diuresis with goal body balance negative -1-1.5L
   2.       ID: biliary sepsis s/p ERCP
 Ecoli bacteremia
   -          plan two week course of augmentin for biliary source
   -          hemodynamically stable
   3.       CV:  pAfib RVR yesterday; back in NSR after diltiazem
   -          Lopressor 12.5mg [**Hospital1 **]
   -          ASA 81mg daily
   4.       GI: LFTs trending down, no abdominal pain
   ICU Care
   Nutrition:
   Replete with Fiber (Full) - [**2140-9-30**] 12:15 AM 10 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2140-9-26**] 01:44 AM
   Multi Lumen - [**2140-9-26**] 03:36 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Code status: Full code
   Disposition :ICU
 critically ill
   Total time spent:  35 minutes

2140-10-01 06:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2140-9-30**] 11:30 AM
 BLOOD CULTURED - At [**2140-9-30**] 01:35 PM
 FEVER - 102.0
F - [**2140-9-30**] 12:00 PM
   - pt febrile at 12p yesterday to 102 --> blood cx sent, sputum sent
   - CXR no new consolidations
   - I/O even at midnight.  Pt was given 10mg lasix at noon.  Held back on
   aggressive diuresis because of fever
   - Will hold sedation in AM and prepare for extubation
   Allergies:
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Ampicillin/Sulbactam (Unasyn) - [**2140-9-28**] 08:39 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-9-30**] 12:00 PM
   Heparin Sodium (Prophylaxis) - [**2140-9-30**] 02:15 PM
   Fentanyl - [**2140-9-30**] 10:14 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-1**] 06:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.9
C (102
   Tcurrent: 36.8
C (98.2
   HR: 79 (72 - 96) bpm
   BP: 148/81(108) {129/73(96) - 155/89(117)} mmHg
   RR: 18 (13 - 24) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 60 kg (admission): 51 kg
   Height: 58 Inch
    CVP: 6 (5 - 19)mmHg
   Total In:
                                                                    823 mL
                                                                    199 mL
   PO:
   TF:
                                                                    300 mL
                                                                    132 mL
   IVF:
                                                                    243 mL
                                                                     67 mL
   Blood products:
   Total out:
                                                                    834 mL
                                                                    210 mL
   Urine:
                                                                    834 mL
                                                                    210 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    -11 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 556 (427 - 556) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 40
   PIP: 16 cmH2O
   SpO2: 97%
   ABG: 7.42/39/106/24/0
   Ve: 9.8 L/min
   PaO2 / FiO2: 265
   Physical Examination
   General Appearance: Thin, Elderly, moving all four extremities.
   Eyes / Conjunctiva: PERRL but constricted
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Rhonchorous throughout.
   Abdominal: Absent BS, S/ND.
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Opens eyes, moving all four extremities, does not follow
   commands.
   Labs / Radiology
   73 K/uL
   9.2 g/dL
   178 mg/dL
   0.9 mg/dL
   24 mEq/L
   4.0 mEq/L
   20 mg/dL
   110 mEq/L
   142 mEq/L
   27.4 %
   12.6 K/uL
         [image002.jpg]
                            [**2140-9-28**]  04:01 PM
                            [**2140-9-29**]  03:27 AM
                            [**2140-9-29**]  03:40 AM
                            [**2140-9-29**]  11:40 AM
                            [**2140-9-29**]  07:21 PM
                            [**2140-9-30**]  03:54 AM
                            [**2140-9-30**]  04:04 AM
                            [**2140-9-30**]  09:06 AM
                            [**2140-10-1**]  04:31 AM
                            [**2140-10-1**]  04:52 AM
   WBC
   18.2
   14.2
   12.6
   Hct
   27.5
   28.8
   27.4
   Plt
   63
   65
   73
   Cr
   1.0
   1.0
   0.9
   0.9
   TCO2
   20
   18
   16
   18
   18
   26
   Glucose
   76
   82
   103
   178
   Other labs: PT / PTT / INR:13.2/33.6/1.1, CK / CKMB /
   Troponin-T:131/5/0.02, ALT / AST:81/96, Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:84/44, Differential-Neuts:95.5 %, Band:0.0 %,
   Lymph:2.4 %, Mono:1.8 %, Eos:0.2 %, D-dimer:5367 ng/mL, Fibrinogen:339
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:194 IU/L, Ca++:8.0
   mg/dL, Mg++:1.4 mg/dL, PO4:2.3 mg/dL
   Microbiology: BCx ([**9-26**]-present) - NGTD
   Sputum Cx ([**9-30**]) - NGTD
   Assessment and Plan
   Mrs. [**Known lastname 1717**] is a [**Age over 90 **] year old female with a PMH significant for afib on
   coumadin with gall stone pancreatitis complicated by sepsis.
   .
   # Respiratory failure: Patient aspirated in setting of CVL insertion
   after being placed in tren position.  Pt has been off sedation with
   fentanyl bolus with improvement of mental status.  Currently on prn
   sedation.  Extubatation initially complicated by pulmonary edema and
   then afib with RVR.  RSBI this AM 40.
   - SBT and extabate this AM if tolerated.
   - Goal TBB even today
   .
   # Sepsis: Patient febrile yesterday to 102 with blood and sputum
   cultures sent.  Leukocytosis trending down today to 12.6. Likely
   biliary sepsis given gallstone pancreatitis s/p ERCP with blood
   cultures at OSH speciated as pan-sensitive E. coli.
   - Continue Augmentin for total of 14 days ([**5-28**])
 antibiotic start
   date [**9-26**]
   - Monitor fever curve and WBC
   - f/u blood and urine cultures.
   - Monitor UOP, MAP, CVP, mentation and bolus as necessary.
   .
   #A-fib: Pt with a-fib w/ RVR two days ago in setting of aggressive
   diuresis that broke with diltiazem complicated by transient hypotension
   requiring brief period of levophed.  She was then started on metoprolol
   12.5 mg [**Hospital1 **]. Anticoagulation not yet restarted given supratherapeutic
   INR on presnetation and will be deferred to outpatient.
   - Continue metoprolol 12.5 mg po bid
   - hold anticoagulation, continue ASA
   - consider amio if pt has a-fib w/ RVR and pressures cont to be low.
   .
   # Anemia: Hct stable 27.4.
   - Continue to monitor.
   .
   # Pancreatitis: Patient with gallstone pancreatitis s/p ERCP.
   - Continue TF
   - can restart diet if extubated, given pt is able to swollow
   .
   # Coagulopathy/thrombocytopenia: Patient anticoagulated with coumadin
   on admission. She has received FFP and vitamin K on initial admission
   for INR >5. Platelets currently stable at 73 up from 65 yesterday.
   - Trend coags, CBC
   .
   # CAD:
   - holding lisinopril
   - Cont ASA
   .
   # Hx of CVA: no residual deficits
   - Cont ASA
   .
   # FEN: TF, replete lytes as necessary
   - if extubated need to assess aspiration risk
   .
   # PPX: heparin SQ, PPI
   .
   # Access: Arterial line, RIJ
   .
   # CODE: Full
   .
   # Contact: [**Name (NI) 310**] [**Name (NI) 1717**], [**Telephone/Fax (1) 1719**]
   .
   # DISPO: ICU level of care
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-9-26**] 01:44 AM
   Multi Lumen - [**2140-9-26**] 03:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-10-02 06:41:00 Physician Resident Progress Note
Chief Complaint: Gallstone pancreatitis, biliary sepsis, respiratory
   failure
   24 Hour Events:
   - Extubated. Increased secretions with temporary increase in oxygen
   requirement that has resolved.
   - NPO as coughing and having difficulty clearing secretions. Speech and
   swallow consult placed. Metoprolol converted to IV. Amox/clav converted
   to amp/sulbactam.
   Allergies:
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Ampicillin - [**2140-10-2**] 04:03 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2140-10-1**] 08:11 AM
   Furosemide (Lasix) - [**2140-10-1**] 03:21 PM
   Metoprolol - [**2140-10-1**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2140-10-1**] 10:00 PM
   Pantoprazole (Protonix) - [**2140-10-1**] 11:38 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2140-10-2**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.2
C (97.1
   HR: 59 (58 - 89) bpm
   BP: 134/66(91) {119/66(86) - 170/98(128)} mmHg
   SpO2: 96%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60 kg (admission): 51 kg
   Height: 58 Inch
    CVP: 1 (-1 - 22)mmHg
   Total In:
                                                                    582 mL
                                                                    166 mL
   PO:
   TF:
                                                                    132 mL
   IVF:
                                                                    400 mL
                                                                    166 mL
   Blood products:
   Total out:
                                                                  1,365 mL
                                                                     75 mL
   Urine:
                                                                  1,365 mL
                                                                     75 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -783 mL
                                                                     91 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Set): 400 (400 - 400) mL
   Vt (Spontaneous): 187 (187 - 187) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 12
   PEEP: 0 cmH2O
   FiO2: 70%
   RSBI: 31
   PIP: 5 cmH2O
   SpO2: 96%
   ABG: 7.42/38/72/27/0
   Ve: 5.8 L/min
   PaO2 / FiO2: 180
   Physical Examination
   General Appearance: Thin, Elderly, able to follow commands and
   converse.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Decrease breath sounds at right base.
   Abdominal: +BS, S/ND/NT
   Extremities: Left hand and forearm edematous today without erythema or
   warmth.
   Skin:  Warm
   Neurologic: Able to converse. Orientedx2 (person, place).
   Labs / Radiology
   76 K/uL
   9.4 g/dL
   95 mg/dL
   0.8 mg/dL
   27 mEq/L
   4.0 mEq/L
   17 mg/dL
   112 mEq/L
   146 mEq/L
   27.2 %
   8.4 K/uL
        [image002.jpg]
                            [**2140-9-29**]  03:40 AM
                            [**2140-9-29**]  11:40 AM
                            [**2140-9-29**]  07:21 PM
                            [**2140-9-30**]  03:54 AM
                            [**2140-9-30**]  04:04 AM
                            [**2140-9-30**]  09:06 AM
                            [**2140-10-1**]  04:31 AM
                            [**2140-10-1**]  04:52 AM
                            [**2140-10-1**]  09:46 AM
                            [**2140-10-2**]  04:40 AM
   WBC
   14.2
   12.6
   8.4
   Hct
   28.8
   27.4
   27.2
   Plt
   65
   73
   76
   Cr
   1.0
   0.9
   0.9
   0.8
   TCO2
   18
   16
   18
   18
   26
   25
   Glucose
   82
   103
   178
   95
   Other labs: PT / PTT / INR:13.8/30.4/1.1, CK / CKMB /
   Troponin-T:131/5/0.02, ALT / AST:81/96, Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:84/44, Differential-Neuts:95.5 %, Band:0.0 %,
   Lymph:2.4 %, Mono:1.8 %, Eos:0.2 %, D-dimer:5367 ng/mL, Fibrinogen:339
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:194 IU/L, Ca++:7.9
   mg/dL, Mg++:1.6 mg/dL, PO4:2.9 mg/dL
   Microbiology: Blood - NGTD
   Sputum - Yeast
   Urine - No growth
   Assessment and Plan
   Mrs. [**Known lastname 1717**] is a [**Age over 90 **] year old female with a PMH significant for afib on
   coumadin with gall stone pancreatitis complicated by sepsis and afib
   with RVR now extubated.
   .
   # Respiratory failure: Patient aspirated in setting of CVL insertion
   after being placed in tren position.  Was succesfully extubated
   yesterday. Yesterday afternoon had increasing secretions and difficulty
   clearing airway with temporary increase in oxygen requirement that
   resolved with suctioning.  Has been stable from respiratory standpoint
   overnight.  Was made NPO for concern of aspiration risk and converted
   to IV meds.
   - Wean supplemental O2 as tolerated.
   - Gentle diuresis with 10 mg IV lasix with net TBB -500cc.
   .
   # Sepsis: Patient afebrile and hemodynamically stable over past 24
   hours. Leukocytosis now resolved.  Converted to amp/sulbactam yesterday
   as patient made NPO and NGT removed post-extubation.
   - Continue amp/sulbactam or amox/clav ([**6-27**]) depending on ability to
   tolerate PO.
   - Monitor fever curve and WBC
   - Monitor UOP, MAP, CVP, mentation and bolus IVF as necessary
   .
   # A-fib: Developed RVR in setting of aggressive diuresis broken with
   diltiazem complicated by transient hypotension requiring brief period
   of levophed.  Has since been started on metoprolol 12.5 po bid
   converted to iv yesterday. Anticoagulation not yet restarted given
   supratherapeutic INR on presnetation and will be deferred to
   outpatient.
   - Continue metoprolol. Was coverted to IV yesterday as patient NPO, but
   will switch back if tolerating PO today.
   - hold anticoagulation, continue ASA
   .
   # Anemia: Hct stable 27.2.
   - Trend hct, transfuse for hct<25. Has received 1u PRBC during
   admission.
   .
   # LUE Swelling: Concerning for DVT. Unlikely to be cellulitlis as hand
   without erythema.
   - LUE U/S to r/o DVT.
   .
   # HTN: BP overnight normal to elevated.
   - Restart lisinopril 5 mg daily today.
   .
   # Pancreatitis: Patient with gallstone pancreatitis s/p successful
   ERCP.
   - Clears - ADAT.
   .
   # Coagulopathy/thrombocytopenia: Patient anticoagulated with coumadin
   on admission. She has received FFP and vitamin K on initial admission
   for INR >5. Platelets currently stable at 73 up from 65 yesterday.
   - Trend coags, CBC
   .
   # CAD:
   - Cont ASA
   .
   # Hx of CVA: no residual deficits
   - Cont ASA
   .
   # FEN: NPO yesterday after inability to clear secretions and weak
   cough. Will start clears today and ADAT.  Speech and swallow consult
   placed. Replete as necessary.
   .
   # PPX: heparin SQ, PPI
   .
   # Access: Arterial line, RIJ
   .
   # CODE: Full
   .
   # Contact: [**Name (NI) 310**] [**Name (NI) 1717**], [**Telephone/Fax (1) 1719**]
   .
   # DISPO: If hemodynamically stable this morning, plan to call out.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2140-9-26**] 01:44 AM
   Multi Lumen - [**2140-9-26**] 03:36 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2140-10-03 07:24:00 Physician Resident Progress Note
Chief Complaint: Gallstone Pancreatitis
   24 Hour Events:
   - Switched back to IV meds (beta-blocker, antibiotic) because seemed to
   be aspirating with thickened liquids
   - Speech and swallow ordered, kept NPO
   - LUE ultrasound - "No DVT in the left upper extremity though left
   cephalic and basilic veins not well seen."
   - Given Lasix 10mg IV x1 with good diuresis
   - At midnight, fluid balance -700ml; UOP ~50/hour
   - pt family noticed "left sided neglect".  Pt was examined and found to
   have minimal left hand and extensor weakness.  Pt also with decreased
   cerebellar function (finger to nose), but improved on follow-up exam.
 ULTRASOUND - At [**2140-10-2**] 11:29 AM
   Allergies:
   Morphine
   hallucinations;
   Last dose of Antibiotics:
   Ampicillin - [**2140-10-2**] 04:00 AM
   Ampicillin/Sulbactam (Unasyn) - [**2140-10-3**] 04:46 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2140-10-2**] 11:29 AM
   Metoprolol - [**2140-10-3**] 04:47 AM
   Heparin Sodium (Prophylaxis) - [**2140-10-3**] 06:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain, No(t) Palpitations, No(t) Tachycardia
   Nutritional Support: NPO
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain, No(t) Nausea, No(t) Emesis,
   No(t) Diarrhea, No(t) Constipation
   Neurologic: No(t) Numbness / tingling
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2140-10-3**] 07:24 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 36.2
C (97.1
   HR: 60 (60 - 76) bpm
   BP: 168/87(118) {144/72(100) - 171/92(123)} mmHg
   SpO2: 100%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 60 kg (admission): 51 kg
   Height: 58 Inch
    CVP: 12 (3 - 14)mmHg
   Total In:
                                                                    440 mL
                                                                    171 mL
   PO:
   TF:
   IVF:
                                                                    440 mL
                                                                    171 mL
   Blood products:
   Total out:
                                                                  1,165 mL
                                                                    245 mL
   Urine:
                                                                  1,165 mL
                                                                    245 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -725 mL
                                                                    -73 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: ///23/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), irreg irregular
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   2/3 up from the base), increased resp effort speech, productive cough
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone:
   LUE: minimal weakness with hand grip on left side. Pt using left hand
   to pull herself in bed and fully interacts when examined on left side.
   Labs / Radiology
   106 K/uL
   9.2 g/dL
   93 mg/dL
   0.6 mg/dL
   23 mEq/L
   3.3 mEq/L
   15 mg/dL
   110 mEq/L
   148 mEq/L
   26.6 %
   8.6 K/uL
        [image002.jpg]
                            [**2140-9-29**]  11:40 AM
                            [**2140-9-29**]  07:21 PM
                            [**2140-9-30**]  03:54 AM
                            [**2140-9-30**]  04:04 AM
                            [**2140-9-30**]  09:06 AM
                            [**2140-10-1**]  04:31 AM
                            [**2140-10-1**]  04:52 AM
                            [**2140-10-1**]  09:46 AM
                            [**2140-10-2**]  04:40 AM
                            [**2140-10-3**]  04:47 AM
   WBC
   14.2
   12.6
   8.4
   8.6
   Hct
   28.8
   27.4
   27.2
   26.6
   Plt
   65
   73
   76
   106
   Cr
   1.0
   0.9
   0.9
   0.8
   0.6
   TCO2
   16
   18
   18
   26
   25
   Glucose
   82
   103
   178
   95
   93
   Other labs: PT / PTT / INR:13.8/30.4/1.1, CK / CKMB /
   Troponin-T:131/5/0.02, ALT / AST:81/96, Alk Phos / T Bili:128/0.6,
   Amylase / Lipase:84/44, Differential-Neuts:95.5 %, Band:0.0 %,
   Lymph:2.4 %, Mono:1.8 %, Eos:0.2 %, D-dimer:5367 ng/mL, Fibrinogen:339
   mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6 g/dL, LDH:194 IU/L, Ca++:8.0
   mg/dL, Mg++:1.5 mg/dL, PO4:2.7 mg/dL
   Assessment and Plan
   Mrs. [**Known lastname 1717**] is a [**Age over 90 **] year old female with a PMH significant for afib on
   coumadin with gall stone pancreatitis complicated by sepsis and afib
   with RVR now extubated.
   .
   # Respiratory failure: Patient aspirated in setting of CVL insertion
   after being placed in tren position.  Was succesfully extubated [**10-1**].
   Pt with increasing secretions and difficulty clearing airway with
   temporary increase in oxygen requirement that resolved with
   suctioning.  Was made NPO for concern of aspiration risk and converted
   to IV meds. Pt was negative -725cc.
   - Wean supplemental O2 as tolerated.
   - will hold on lasix for now given hypernatermia.
   .
   # Sepsis: Patient afebrile and hemodynamically stable over past 24
   hours. Leukocytosis now resolved.  Converted to amp/sulbactam as
   patient made NPO and NGT removed post-extubation.
   - Continue amp/sulbactam IV  ([**7-28**]) due to inability to tolerate PO.
   - Monitor fever curve and WBC
   - Monitor UOP, MAP, CVP, mentation and bolus IVF as necessary
   .
   # Hx of CVA: no residual deficits on history.  Fmaily concerned
   yesterday that pt was not using left hand.  Pt was examined yesterday
   and today and pt has no obvious deficits.  Pt is using her left hand
   and there was no neglect on left side.
   - cont to monitor and image if symtpoms appear
   - Cont ASA
   .
   #Hypernatermia: Pt w/ sodium 148.  Free water deficit is 1.5L.  Will
   get S&S  and if patient passes will replete via po intake.  If patient
   does not pass will give through IVF.
   .
   # A-fib: Developed RVR in setting of aggressive diuresis broken with
   diltiazem complicated by transient hypotension requiring brief period
   of levophed.  Has since been started on metoprolol 12.5 po bid
   converted to iv due to aspiration. Anticoagulation not yet restarted
   given supratherapeutic INR on presnetation and will be deferred to
   outpatient.
   - Continue metoprolol. Was coverted to IV as patient NPO
   - hold anticoagulation, continue ASA
   .
   # Anemia: Hct stable 26.6.
   - Trend hct, transfuse for hct<25. Has received 1u PRBC during
   admission.
   .
   # LUE Swelling: No evidence of DVT on U/S. Unlikely to be cellulitlis
   as hand without erythema.
   -cont to monitor
   .
   # HTN: BP overnight normal to elevated.
   - pt on BB
   - will hold po lisinopril 5 mg daily until S&S.
   .
   # Pancreatitis: Patient with gallstone pancreatitis s/p successful
   ERCP.
   - Clears - ADAT.
   .
   # Coagulopathy/thrombocytopenia: Patient anticoagulated with coumadin
   on admission. She has received FFP and vitamin K on initial admission
   for INR >5. Platelets currently stable at 106.
   - Trend coags, CBC
   .
   # CAD:
   - Cont ASA
   .
   # FEN: NPO yesterday after inability to clear secretions and weak
   cough. Speech and swallow consult placed. Replete as necessary.
   .
   # PPX: heparin SQ, PPI
   .
   # Access: Arterial line, RIJ
   - will pull a-line
   .
   # CODE: Full
   .
   # Contact: [**Name (NI) 310**] [**Name (NI) 1717**], [**Telephone/Fax (1) 1719**]
   .
   # DISPO: If hemodynamically stable this morning, plan to call out.
   ICU Care
   Nutrition:
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2140-9-26**] 01:44 AM
   Multi Lumen - [**2140-9-26**] 03:36 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU